US08048887B2
2-(4-Fluorophenyl)-N-methyl-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide
Oxalyl chloride (22 μL, 0.250 mmol) was added to a stirring solution of 2-(4-fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid (50 mg, 0.083 mmol) in DCE (832 μL) at rt. DMF (3 μL, 0.042 mmol) was added. The mixture was allowed to stir for 30 min, concentrated and diluted with THF. DIEA (59 μL, 0.333 mmol) and methanamine (208 μL, 0.416 mmol, 2M in THF) was added. It was allowed to stir overnight. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and was purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (11 mg, 20%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.46-8.56 (1H, m), 8.36 (1H, s), 7.97-8.05 (3H, m), 7.94 (1H, s), 7.86 (1H, d, J=7.78 Hz), 7.59-7.67 (2H, m), 7.53 (1H, t, J=7.65 Hz), 7.35-7.42 (4H, m), 7.29 (2H, t, J=7.78 Hz), 7.17 (1H, t, J=7.28 Hz), 3.06 (3H, s), 3.01 (3H, s), 2.82 (3H, d, J=4.52 Hz), 1.69 (6H, s). LC-MS retention time: 1.51 min; m/z (MH+): 614. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=12.89 min, purity=92%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=12.11 min, purity=91%.

reactant | Oxalyl chloride | 0.250 mmol, 22 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-fluorophenyl)-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxylic acid | 0.083 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)N(S(=O)(=O)C)C)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C33H29FN2O6S
reactant | DMF | 0.042 mmol, 3 μL | CN(C)C=O | C3H7NO
reactant | DIEA | 0.333 mmol, 59 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanamine | 0.416 mmol, 2M, 208 μL | CN | CH5N
solvent | DCE | 832 μL | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-N-methyl-6-(N-methylmethylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | 11 mg, 20% | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C34H32FN3O5S
